US08222424B2
A solution of 1.7 g of 5-[1-(tert-butyldimethylsilyl)-1H-indole-6-carbonyl]-2-chloro-N-(tert-butyldimethylsilyl)-benzenesulfonamide in tetrahydrofuran (110 mL) at −78° C. is treated with 0.564 g of N-bromosuccinimide. After 6 h at −78° C. the temperature is allowed to reach room temperature. The reaction mixture is taken up in diethyl ether, washed with water and dried (magnesium sulfate). The solvent is evaporated and the residue is triturated under sonication with diisopropylether to give 5-[3-bromo-1-(tert-butyldimethylsilyl)-1H-indole-6-carbonyl]-2-chloro-N-(tert-butyldimethylsilyl)-benzenesulfonamide as a tan powder. MS (m/z): 643 (M+1); Rf 0.90 (95:5 methylene chloride/methanol).

reactant | 5-[1-(tert-butyldimethylsilyl)-1H-indole-6-carbonyl]-2-chloro-N-(tert-butyldimethylsilyl)-benzenesulfonamide | 1.7 g | [Si](C)(C)(C(C)(C)C)N1C=CC2=CC=C(C=C12)C(=O)C=1C=CC(=C(C1)S(=O)(=O)N[Si](C)(C)C(C)(C)C)Cl | C27H39ClN2O3SSi2
reactant | N-bromosuccinimide | 0.564 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 110 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-[3-bromo-1-(tert-butyldimethylsilyl)-1H-indole-6-carbonyl]-2-chloro-N-(tert-butyldimethylsilyl)-benzenesulfonamide | BrC1=CN(C2=CC(=CC=C12)C(=O)C=1C=CC(=C(C1)S(=O)(=O)N[Si](C)(C)C(C)(C)C)Cl)[Si](C)(C)C(C)(C)C | C27H38BrClN2O3SSi2
